US07423030B2
47.3. 4-Benzyloxymethyl-1-chloro-7-methoxyphthalazine
This compound is obtained according to the procedure described in 1.3. by reacting 4-benzyloxymethyl-7-methoxy-2H-phthalazin-1-one with phosphoryl chloride. This oily compound is used as obtained in the following reaction.

reactant | 4-benzyloxymethyl-7-methoxy-2H-phthalazin-1-one | C(C1=CC=CC=C1)OCC1=NNC(C2=CC(=CC=C12)OC)=O | C17H16N2O3
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Benzyloxymethyl-1-chloro-7-methoxyphthalazine | C(C1=CC=CC=C1)OCC1=NN=C(C2=CC(=CC=C12)OC)Cl | C17H15ClN2O2
